US07399774B2
6-(1-Oxo-indan-4-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 4-hydroxy-1-indanone (2.44 g, 16.5 mmol), 6-chloronicotinamide (2.34 g, 15.0 mmol) and K2CO3 (3.11 g, 22.5 mmol) gives the title compound (1.22 g) as a yellow solid. Mass spectrum (ion spray): m/z=269 (M+1); 1HNMR (DMSO-d6): 8.57 (s, 1H), 8.29 (d, 1H), 8.03 (s, 1H), 7.55-7.46 (M, 4H), 7.19 (d, 1H), 2.81 (t, 2H), 2.61 (t, 2H).

reactant | 4-hydroxy-1-indanone | 16.5 mmol, 2.44 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 6-chloronicotinamide | 15.0 mmol, 2.34 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 22.5 mmol, 3.11 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(1-Oxo-indan-4-yloxy)-nicotinamide | 1.22 g | O=C1CCC2=C(C=CC=C12)OC1=NC=C(C(=O)N)C=C1 | C15H12N2O3
